US08420655B2
5-{1-tert-Butyl-2-[2-(4-chloro-pyrazol-1-yl)-5-methoxy-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine
A solution of 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine (180 mg, 0.70 mmol) and 2-(4-chloro-pyrazol-1-yl)-5-methoxy-benzaldehyde (270 mg, 1.14 mmol) in acetic acid (5 mL) is warmed to 100° C. for 16 hours, then cooled to room temperature and neutralized with NaHCO3 (sat.). The product is extracted into EtOAc (3×) and the combined organics are dried (MgSO4), filtered and concentrated. Purification via flash chromatography (12 g silica gel, 0-5% MeOH/CH2Cl2) follows by reverse phase HPLC (20-100% CH3CN/H2O, each solvent containing 0.1% TFA) affords the title compound (90 mg, 27%). LCMS (ESMS): m/z 474.20 (M++1)

reactant | 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine | 0.70 mmol, 180 mg | NC1=NC=C(C=N1)C=1C=C(C(=CC1)NC(C)(C)C)N | C14H19N5
reactant | 2-(4-chloro-pyrazol-1-yl)-5-methoxy-benzaldehyde | 1.14 mmol, 270 mg | ClC=1C=NN(C1)C1=C(C=O)C=C(C=C1)OC | C11H9ClN2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 5-{1-tert-Butyl-2-[2-(4-chloro-pyrazol-1-yl)-5-methoxy-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine | 90 mg, 27% | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)C=2C=NC(=NC2)N)C2=C(C=CC(=C2)OC)N2N=CC(=C2)Cl | C25H24ClN7O
